* Frozen fixture: Measure switch current limit threshold
.include "model_saved.lib"
V1 vin bm_fixture_ground 12
V2 en bm_fixture_ground 3.3
Cboot boot ph 0.1u
Dcatch bm_fixture_ground ph BM_CATCH
Rsense ph sw 0.02
L1 sw vout 10u
C1 vout bm_fixture_ground 22u
Rload vout bm_fixture_ground 0.5
R1 vout vsense 31.25k
R2 vsense bm_fixture_ground 10k
C2 ss bm_fixture_ground 10n
Rcomp comp comp_c 10k
Ccomp comp_c bm_fixture_ground 1n
.model BM_CATCH D(Is=1u N=1.05 Rs=0.05)
Xdut boot vin en ss vsense comp bm_fixture_ground ph bm_fixture_ground TPS54332DDA
.temp 25
.options plotwinsize=0 numdgt=15
.tran 0 0.001 0 5e-08
.save V(ph) V(sw) V(vout) V(ss) V(comp) V(xdut:run) V(xdut:q) V(xdut:en_ok) V(xdut:uv_ok) V(bm_fixture_ground)
.end
