.subckt LM358 VCC OUT1 IN1M IN1P VEE IN2P IN2M OUT2
* Quiescent supply current (dual total, per amplifier 350uA)
Bq VCC VEE I=700u

* Channel 1
Bib1p VEE IN1P I=19n
Bib1m VEE IN1M I=21n
Rin1p IN1P VEE 1G
Rin1m IN1M VEE 1G
Bvos1 d1 VEE V = V(IN1P,VEE) - V(IN1M,VEE) - 3m
Bgm1 VEE n1 I = 68u*tanh(1m*V(d1,VEE)/68u)
R1 n1 VEE 100Meg
C1 n1 VEE 227p
Dclamp1 n1 VCC Dclamp
Dclamp2 VEE n1 Dclamp
Bout1 OUT1 VEE V = limit(V(n1,VEE), 5m, max(V(VCC,VEE)-2, 5m))

* Channel 2
Bib2p VEE IN2P I=19n
Bib2m VEE IN2M I=21n
Rin2p IN2P VEE 1G
Rin2m IN2M VEE 1G
Bvos2 d2 VEE V = V(IN2P,VEE) - V(IN2M,VEE) - 3m
Bgm2 VEE n2 I = 68u*tanh(1m*V(d2,VEE)/68u)
R2 n2 VEE 100Meg
C2 n2 VEE 227p
Dclamp3 n2 VCC Dclamp
Dclamp4 VEE n2 Dclamp
Bout2 OUT2 VEE V = limit(V(n2,VEE), 5m, max(V(VCC,VEE)-2, 5m))

.model Dclamp D
.ends LM358
