.subckt TPS54332DDA BOOT VIN EN SS VSENSE COMP GND PH POWERPAD
* Ground and pad
Rpad POWERPAD GND 0.001
Rboot BOOT GND 100Meg
Rss SS GND 100Meg
Rvs VSENSE GND 100Meg
Ren EN GND 100Meg
Rcomp COMP GND 100Meg

* EN pull-up
Bpu VIN EN I=1u*min(max((5-V(EN,GND))/0.2,0),1)

* Enable logic
Ben en_ok GND V=0.5*(1+tanh((V(EN,GND)-1.25)/0.05))
Bvin vin_ok GND V=0.5*(1+tanh((V(VIN,GND)-3.5)/0.05))
Benall en_all GND V=V(en_ok,GND)*V(vin_ok,GND)

* Supply current
Biq VIN GND I=81u*V(en_all,GND)
Bishdn VIN GND I=1u

* SS charge
Bss VIN SS I=(2u+100u*min(max((0.4-V(SS,GND))/0.05,0),1))*min(max((0.8-V(SS,GND))/0.02,0),1)*V(en_all,GND)

* Error amp target from SS
Bvtgt vtgt GND V=min(max(V(SS,GND)+0.01,0),0.8)
* Error amp
Bea GND COMP I=min(max(70u*(V(vtgt,GND)-V(VSENSE,GND)),-200u),200u)*V(en_all,GND)

* Eco-mode latch
Bssdone ssdone GND V=0.5*(1+tanh((V(SS,GND)-0.78)/0.01))
Bset set GND V=V(ssdone,GND)*(1-V(eco,GND))*0.5*(1+tanh((0.02-V(COMP,GND))/0.005))
Breset_eco reset_eco GND V=0.5*(1+tanh((V(vtgt,GND)-V(VSENSE,GND))/0.005))
Aeco set reset_eco 0 0 eco eco_n 0 0 SRFLOP Vhigh=1 Vlow=0
Reco eco GND 1Meg
Vlogic logic GND 1

* Eco-mode COMP clamp
Vref05 ref05 GND 0.5
Seco COMP ref05 eco GND SWM

* Clock
Vclk clk GND PULSE(0 1 0 1n 1n 10n 1u)

* PWM current comparator
Bipk ipk GND V=min(max(12*V(COMP,GND),0),5.0)
Bclkset clkset GND V=V(clk,GND)*V(en_all,GND)*(1-V(eco,GND))*(V(COMP,GND)>0.02)
Breset reset GND V=if(V(eco,GND)>0.5, 1, if(V(ton_max,GND)>0.9, 1, if(V(ton_min,GND)>0.5, 0.5*(1+tanh((I(Vsen)-V(ipk,GND))/0.05)), 0)))
A1 clkset reset 0 0 gate gate_n 0 0 SRFLOP Vhigh=1 Vlow=0
Rgate gate GND 1Meg
Bgate_en gate_en GND V=V(gate,GND)*V(en_all,GND)*(1-V(eco,GND))

* Minimum on-time
Cton_min ton_min GND 1n
Rton_min ton_min GND 100Meg
Bton_min GND ton_min I=(V(gate_en,GND)-V(ton_min,GND))*1n/158n

* Maximum on-time
Cton_max ton_max GND 1n
Rton_max ton_max GND 100Meg
Bton_max GND ton_max I=(V(gate_en,GND)-V(ton_max,GND))*1n/390n

* High-side switch
Vsen VIN sw 0
S1 sw PH gate_en GND SWM
.model SWM SW(Ron=0.1 Roff=1Meg Vt=0.5 Vh=0.1)

.ends TPS54332DDA
