* LM358 behavioral macromodel
* Pins: OUT1 IN1M IN1P VEE IN2P IN2M OUT2 VCC
.subckt LM358 OUT1 IN1M IN1P VEE IN2P IN2M OUT2 VCC

* Parameters
.param gm=0.001
.param Cint=227.4p
.param Imax=68.22u
.param VOS=3m
.param IB=20n
.param IOS=1n
.param VOL=5m
.param Gclamp=1m
.param Vw=5m

* Supply-dependent output high headroom (VOH)
Bvoh voh GND V = 1.5 + 0.5*limit((V(VCC,GND)-V(VEE,GND)-5)/25,0,1)
Rdc_voh voh GND 1G

* High and low clamp references
Bvhigh vhigh GND V = V(VCC,GND)-V(voh,GND)
Rdc_vhigh vhigh GND 1G

Bvlow vlow GND V = V(VEE,GND)+{VOL}
Rdc_vlow vlow GND 1G

* Quiescent current (total for both amplifiers, 350uA per amp at VS=5)
Iq VCC VEE DC 700u

* Channel 1
* Input bias and offset currents (current flows out of input pins)
Iib1p VEE IN1P DC {IB}
Iib1m VEE IN1M DC {IB}
Iios1 IN1M IN1P DC {IOS}

* Transconductance stage: I = gm*(V(INP)-V(INM)-VOS), limited for slew rate
Bgm1 GND int1 I = limit(gm*(V(IN1P,GND)-V(IN1M,GND)-VOS), -Imax, Imax)
Cint1 int1 GND {Cint}
Rint1 int1 GND 115Meg

* Internal clamp to supply rails (smooth transition, width Vw)
Bclamp1 clamp1 GND I = 0.5*{Gclamp}*( (V(int1,GND)-V(vhigh,GND) + sqrt((V(int1,GND)-V(vhigh,GND))**2 + {Vw}**2)) + (V(int1,GND)-V(vlow,GND) - sqrt((V(int1,GND)-V(vlow,GND))**2 + {Vw}**2)) )
Rclamp1 clamp1 int1 1
Rdc_clamp1 clamp1 GND 1G

* Output buffer with clamp and small series resistance
Bout1 out1_int GND V = limit(V(int1,GND), V(VEE,GND)+{VOL}, V(VCC,GND)-V(voh,GND))
Rout1 OUT1 out1_int 0.01
Rdc_out1 out1_int GND 1G

* Channel 2
Iib2p VEE IN2P DC {IB}
Iib2m VEE IN2M DC {IB}
Iios2 IN2M IN2P DC {IOS}

Bgm2 GND int2 I = limit(gm*(V(IN2P,GND)-V(IN2M,GND)-VOS), -Imax, Imax)
Cint2 int2 GND {Cint}
Rint2 int2 GND 115Meg

Bclamp2 clamp2 GND I = 0.5*{Gclamp}*( (V(int2,GND)-V(vhigh,GND) + sqrt((V(int2,GND)-V(vhigh,GND))**2 + {Vw}**2)) + (V(int2,GND)-V(vlow,GND) - sqrt((V(int2,GND)-V(vlow,GND))**2 + {Vw}**2)) )
Rclamp2 clamp2 int2 1
Rdc_clamp2 clamp2 GND 1G

Bout2 out2_int GND V = limit(V(int2,GND), V(VEE,GND)+{VOL}, V(VCC,GND)-V(voh,GND))
Rout2 OUT2 out2_int 0.01
Rdc_out2 out2_int GND 1G

.ends LM358
