* Dual op amp gbw; channel 1
.include "C:/Users/basam/AppData/Local/Temp/fzgh/general/tree-v5t4sexd/spice-maker-convergence-shared-core/models/G-lm358/build/model/LM358.lib"
Vcc vcc 0 5
Vref ref 0 2.5
Xamp out inm inp 0 ref other other vcc LM358
Rload out 0 1e+12
Vin inp 0 DC 0 AC 0
Vtest inm out DC -1.4 AC 1
.ac dec 80 1 100Meg
.temp 25
.options plotwinsize=0 numdgt=15 method=gear gminsteps=0 srcsteps=0
.save V(inp) V(inm) V(out) I(Vcc)
.end
